US05057524
4-Chloro-N,N-dimethylbutanamide
A solution of 50.0 g (1.11 mole) of dimethylamine in 100 ml of tetrahydrofuran was added dropwise to a solution of 28.2 (0.20 mole) of 4-chlorobutyryl chloride in 50 ml of tetrahydrofuran. The reaction mixture was stirred mechanically while the temperature was maintained between 5° C. and 15° C. throughout the addition. After the final addition, the solution was filtered to remove solid precipitates, and the filtrate concentrated under reduced pressure to yield 29.6 g (99%) of a yellow liquid. An analytical sample was prepared by filtering the liquid through a small bed of silica gel and eluting with ethyl acetate-hexane (1:1). The fractions containing the desired product were combined and concentrated under reduced pressure to give the title compound as a light-yellow liquid.

reactant | dimethylamine | 1.11 mole, 50.0 g | CNC | C2H7N
reactant | 4-chlorobutyryl chloride | ClCCCC(=O)Cl | C4H6Cl2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-Chloro-N,N-dimethylbutanamide | 29.6 g, 99% | ClCCCC(=O)N(C)C | C6H12ClNO
